US09062075B2
Step-(i): Synthesis of phenyl azetidine-1-carboxylate (J)
To a stirred solution of azetidine (2 g, 35.08 mmol) in DCM (25 mL) were added triethylamine (14.4 mL, 105.24 mmol), followed by phenyl chloroformate (5.5 mL, 42.10 mmol) at 0° C. and the reaction mixture was allowed to stir at 20-35° C. for 16 h. Then the reaction mixture was diluted with water (30 mL) and extracted with DCM (2×50 mL). The organic layer was washed with brine (30 mL), dried over anhydrous Na2SO4 and filtered. The filtrate was rotary evaporated under vacuum to get residue which was purified by column chromatography using mixture of 5% MeOH/DCM as an eluent to get the desired compound as a white solid (4.5 g, 72%). 1H NMR (400 MHz, DMSO-d6) δ 7.39-7.35 (m, 2H), 7.22-7.18 (m, 1H), 7.12-7.08 (m, 2H), 4.20-4.08 (m, 2H), 4.04-3.92 (m, 2H), 2.29-2.21 (m, 2H).

reactant | azetidine | 35.08 mmol, 2 g | N1CCC1 | C3H7N
reactant | triethylamine | 105.24 mmol, 14.4 mL | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 42.10 mmol, 5.5 mL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
solvent | water | 30 mL | O | H2O
product | phenyl azetidine-1-carboxylate | 4.5 g, 72% | N1(CCC1)C(=O)OC1=CC=CC=C1 | C10H11NO2
